US05567726
1. N-tert-Butyloxycarbonylpyrrole-2-carboxaldehyde
A mixture of pyrrole-2-carboxaldehyde (9.5 g, 0.1 mol), (BOC)2O (24.0 g, 0.11 mol) and DMAP (0.25 g) in THF (150 ml) was stirred at room temperature for 16 h. The solvent was removed under vacuum and the residue dissolved in CH2Cl2 (200 ml) and washed with 10% citric add, water and brine. The organic layer was dried (Na2SO4) and evaporated to give the desired product (20.9 g, 95%); δ (360 MHz, CDCl3) 1.65 (9H, s, 3 of CH3), 6.28-6.30 (1H, m, Ar--H), 7.18-7.19 (1H, m, Ar--H), 7.43-7.45 (1H, m, Ar--H). 2. trans-Methyl-2-N-tert-butyloxycarbonylpyrrol-2-yl)acrylate Prepared from the preceding aldehyde and methyl diethylphosphonoacetate as described for Intermediate 4 (step 3). The product (98%) was obtained as a pale yellow oil; δ (360 MHz, CDCl3) 1.63 (9H, s, 3 of CH3), 3.78 (3H, s, CH3), 6.21 (1H, d, J=16.0 Hz, vinyl CH), 6.21-6.22 (1H, m, Ar--H), 6.69-6.71 (1H, m, Ar--H), 7.38-7.39 (1H, m, Ar--H), 8.30 (1H, d, J=16.0 Hz, vinyl CH).

reactant | pyrrole-2-carboxaldehyde | 0.1 mol, 9.5 g | N1C(=CC=C1)C=O | C5H5NO
reactant | (BOC)2O | 0.11 mol, 24.0 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.25 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | N-tert-Butyloxycarbonylpyrrole-2-carboxaldehyde | 20.9 g, 95% | C(C)(C)(C)OC(=O)N1C(=CC=C1)C=O | C10H13NO3
